US05834506
(S)-3-Hydroxy-3-[2-(4-hydroxy-phenyl)-ethyl]-4-methyl-pentanoic acid methyl ester
The title compound was prepared as described in General Method 4 using 3-[2-(4-benzyloxy-phenyl)-ethyl]-3-hydroxy-4-methyl-pentanoic acid methyl ester (8.6 g, 24.2 mmol) from Example SSSS. Three grams of 20% Pd over charcoal and THF:MeOH 1:1 (100 mL). The crude compound was recrystallized from hexanes-ethyl acetate to give racemic title compound (m.p. 89°-91° C.). The title compound was obtained by resolution on a semi-preparative Chiralcel OD column eluting with 90% hexanes, 10% isopropanol and 0.1% trifluoroacetic acid. 1H-NMR (CDCl3) δ 0.93 (d, 3H), 0.95 (d, 3H), 1.68-1.85 (m, 2H), 1.93 (m, 1H), 2.53 (dd, 2H), 2.62 (m, 2H), 3.63 (br s, 1H), 3.71 (s, 3H), 4.97 (br s, 1H), 6.73 (d, 2H), 7.03 (d, 2H).

reactant | 3-[2-(4-benzyloxy-phenyl)-ethyl]-3-hydroxy-4-methyl-pentanoic acid methyl ester | 24.2 mmol, 8.6 g | COC(CC(C(C)C)(O)CCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H28O4
reactant | charcoal | C | CH4
catalyst | Pd | Three grams | [Pd] | Pd
solvent | THF MeOH | 100 mL | C1CCOC1.CO
product | (S)-3-Hydroxy-3-[2-(4-hydroxy-phenyl)-ethyl]-4-methyl-pentanoic acid methyl ester | COC(C[C@](C(C)C)(CCC1=CC=C(C=C1)O)O)=O | C15H22O4
